US04004912
Preparation of Tetrahydro-1-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-3-propyl-6-butanoyloxy-2(1H)-pyrimidinone
Tetrahydro-1-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-3-propyl-6-hydroxy-2(1H)-pyrimidinone (0.1 mole), butanoic anhydride (0.11 mole), toluenesulfonic acid (0.05 gram) and benzene (100 ml) are charged into a glass reaction vessel equipped with a mechanical stirrer and thermometer. The reaction mixture is heated on a steam bath with stirring for a period of about 2 hours. After this time the reaction mixture is cooled to room temperature and is stripped of solvent under reduced pressure leaving a residue. The residue is recrystallized to yield the desired product tetrahydro-1-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-3-propyl-6-butanoyloxy-2(1H)-pyrimidinone.

reactant | Tetrahydro-1-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-3-propyl-6-hydroxy-2(1H)-pyrimidinone | 0.1 mole | C1(CCCC1)C1=NN=C(S1)N1C(N(CCC1O)CCC)=O | C14H22N4O2S
reactant | butanoic anhydride | 0.11 mole | C(CCC)(=O)OC(CCC)=O | C8H14O3
reactant | toluenesulfonic acid | 0.05 gram | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | tetrahydro-1-(5-cyclopentyl-1,3,4-thiadiazol-2-yl)-3-propyl-6-butanoyloxy-2(1H)-pyrimidinone | C1(CCCC1)C1=NN=C(S1)N1C(N(CCC1OC(CCC)=O)CCC)=O | C18H28N4O3S
